US04382090
Following the above procedure, 2-(2-methylaminomethyl-4-thiazolylmethylthio)ethylamine and N-methyl-1-methylthio-2-nitroethyleneamine were reacted in water solution. The reaction was worked up and the product isolated by the above procedure to yield N-methyl-N'-2-(2-methylaminomethyl-4-thiazolylmethylthio)ethyl 2-nitro-1,1-ethenediamine metling at 105°-107° C. after recrystallization from acetonitrile followed by recrystallization from ethanol.

reactant | 2-(2-methylaminomethyl-4-thiazolylmethylthio)ethylamine | CNCC=1SC=C(N1)CSCCN | C8H15N3S2
reactant | N-methyl-1-methylthio-2-nitroethyleneamine | CN1C(C1SC)[N+](=O)[O-] | C4H8N2O2S
solvent | water | O | H2O
product | N-methyl-N'-2-(2-methylaminomethyl-4-thiazolylmethylthio)ethyl 2-nitro-1,1-ethenediamine | CNC(=C[N+](=O)[O-])NCCSCC=1N=C(SC1)CNC | C11H19N5O2S2
